US07777036B2
Synthesis of 1′-(2-Trifluoromethylbenzoyl)-1′,2′,3′,6′-Tetrahydro-[2,4′]Bipyridinyl-5-Carboxylic acid (2-Cyclopropylethyl)Amide
To a stirred solution of 1′,2′,3′,6′-tetrahydro[2,4′]bipyridinyl-5-carboxylic acid (2-cyclopropylethyl)amide (0.050 g, 0.184 mmol) in dichloromethane (5.0 mL) was added 2-(trifluoromethyl)benzoyl chloride (32 μL, 0.203 mmol), and triethylamine (31 μL, 0.203 mmol). The resulting mixture was stirred at room temperature for 30 minutes. The organic phase was washed with water (5 mL), saturated NaCl (5 mL), dried over MgSO4 and then concentrated in vacuo. The crude product was purified by column chromatography to afford the pure title compound in 42% yield (0.453 g). 1H NMR (300 MHz, CDCl3) δ 8.88 (s, 1H), 8.09 (d, J=8.3 Hz, 1H), 7.73-7.67 (m, 1H), 7.63-7.51 (m, 3H), 7.46-7.41 (m, 1H), 7.38-7.32 (m, 1H), 6.77 (s, 1H), 6.49-6.43 (m, 1H), 4.70-4.43 (m, 1H), 4.33-4.26 (m, 1H), 4.15-4.06 (m, 1H), 3.96-3.88 (m, 1H), 3.56-3.49 (dd, J=6.7 and 6.3 Hz, 2H), 3.47-3.30 (m, 2H), 2.76-2.60 (m, 2H), 1.54-1.47 (dd, J=6.8 and 7.0 Hz, 2H), 0.74-0.66 (m, 1H), 0.49-0.44 (m, 2H), 0.10-0.045 (m, 2H). 13C NMR (75 MHz, CDCl3) δ 167.7, 165.3, 158.8, 147.2, 135.6, 134.7, 132.3, 129.3, 128.6, 127.2, 127.1, 125.4, 124.3, 118.6, 60.4, 47.1, 43.9, 42.3, 40.4, 34.3, 25.9, 8.6, 4.2. MS (ES+) m/z 444.0 (M+1).

reactant | 1′,2′,3′,6′-tetrahydro[2,4′]bipyridinyl-5-carboxylic acid (2-cyclopropylethyl)amide | 0.184 mmol, 0.050 g | C1(CC1)CCNC(=O)C=1C=CC(=NC1)C=1CCNCC1 | C16H21N3O
reactant | 2-(trifluoromethyl)benzoyl chloride | 0.203 mmol, 32 μL | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | triethylamine | 0.203 mmol, 31 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | 1′-(2-Trifluoromethylbenzoyl)-1′,2′,3′,6′-Tetrahydro-[2,4′]Bipyridinyl-5-Carboxylic acid (2-Cyclopropylethyl)Amide | 42% yield | C1(CC1)CCNC(=O)C=1C=CC(=NC1)C=1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H24F3N3O2
